US07598397B2
To a suspension of N-(4-Naphthalen-2-ylmethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yl)-oxalamic acid methyl ester, I-61 (95 mg,) in methanol (2.0 mL), 1.0 M NaOH (0.5 mL) was added followed by THF (2.0 mL) resulting in a clear solution. Reaction was stirred at room temperature for 30 minutes and then concentrated to remove the solvents. The residue was taken in water (2.0 mL), acidified with 1.0 M HCl and extracted with EtOAc (5.0 mL×4). Combined extracts were washed with water (5.0 mL), dried (brine, Na2SO4) and concentrated to afford N-(4-Naphthalen-2-ylmethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yl)-oxalamic acid, I-62 (69 mg). APCI m/z 375 (M-H)+.

reactant | N-(4-Naphthalen-2-ylmethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yl)-oxalamic acid methyl ester | COC(C(=O)NC1=CC=CC2=C1N(C(CO2)=O)CC2=CC1=CC=CC=C1C=C2)=O | C22H18N2O5
reactant | NaOH | 1.0 M, 0.5 mL | [OH-].[Na+]
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 2.0 mL | CO | CH4O
product | N-(4-Naphthalen-2-ylmethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-5-yl)-oxalamic acid | C1=C(C=CC2=CC=CC=C12)CN1C(COC2=C1C(=CC=C2)NC(C(=O)O)=O)=O | C21H16N2O5
